US05552399
Trifluoroacetic acid anhydride (12.7 ml) was added dropwise at 0° C. to a solution of N-methyl-2-propen-1-amine (5 g) and triethylamine (14.7 ml) in diethylether (50 ml) and this mixture was stirred at room temperature for 6 hours, after which the solvent was evaporated. The residue was dissolved in water, extracted with CH2Cl2 and the solvent evaporated, yielding 9.4 g (75%) of 2,2,2-trifluoro-N-methyl-N-2-propenylacetamide (interm. 1).

reactant | Trifluoroacetic acid anhydride | 12.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-methyl-2-propen-1-amine | 5 g | CNCC=C | C4H9N
reactant | triethylamine | 14.7 ml | C(C)N(CC)CC | C6H15N
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2,2,2-trifluoro-N-methyl-N-2-propenylacetamide | 9.4 g, 75% | FC(C(=O)N(CC=C)C)(F)F | C6H8F3NO
